US04808605
6.0 g of benzyl [[trans-4-(2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate are dissolved in 600 ml of ethanol and hydrogenated at room temperature and normal pressure after the addition of 1 g of 5% palladium-on-active charcoal. The product, isolated in the usual manner, is recrystallized from methylene chloride/ether. There are obtained 3.0 g (78%) of 2-[trans-4-[(methylamino)methyl]cyclohexyl]benzimidazole, m.p. 232°-235°, as a colourless crystalline powder.

reactant | benzyl [[trans-4-(2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate | 6.0 g | N1=C(NC2=C1C=CC=C2)[C@@H]2CC[C@H](CC2)CN(C(OCC2=CC=CC=C2)=O)C | C23H27N3O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium | 1 g | [Pd] | Pd
product | 2-[trans-4-[(methylamino)methyl]cyclohexyl]benzimidazole | 3.0 g, 78% | CNC[C@@H]1CC[C@H](CC1)C=1NC2=C(N1)C=CC=C2 | C15H21N3
